US04604437
Allylmethylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid N-cyclohexylimide.
A mixture of 20 g of allylmethylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic anhydride and 9.09 g of cyclohexylamine is heated at 135° C. for 3 hours, and the product is then distilled in vacuo. 16 g of a yellow, viscous oil distill over between 128° and 138° C. at 2.5 Pa, corresponding to a yield of 58.2%.

reactant | allylmethylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic anhydride | 20 g | C(C=C)CC12C3C(C(C=C1)C2)C(=O)OC3=O | C13H14O3
reactant | cyclohexylamine | 9.09 g | C1(CCCCC1)N | C6H13N
product | Allylmethylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid N-cyclohexylimide | yield of 58.2% | C1(CCCCC1)N=C(O)C1C2(C=CC(C1C(=O)O)C2)CCC=C | C19H27NO3
